US04638067
To a solution of 16.4 g (75 mmole) of 5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxylic acid in 150 ml of acetonitrile was added 13.8 g (85 mmole) of 1,1'-carbonyldiimidazole. The reaction was heated to 60° C. for one hour, cooled to room temperature and treated with 4.85 g (85 mmole) of cyclopropylamine. The reaction was stirred at room temperature for 18 hours, the solvent removed in vacuo and the residue partitioned between chloroform and water. The organic layer was washed with water, 1 N hydrochloric acid, dried over magnesium sulfate, filtered, and evaporated in vacuo to give 18.3 g of 5-oxo-1-phenylmethyl)-N-cyclopropyl-3-pyrrolidinecarboxamide, mp 94°-96° C.

reactant | 5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxylic acid | 75 mmole, 16.4 g | O=C1CC(CN1CC1=CC=CC=C1)C(=O)O | C12H13NO3
reactant | 1,1'-carbonyldiimidazole | 85 mmole, 13.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | cyclopropylamine | 85 mmole, 4.85 g | C1(CC1)N | C3H7N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-cyclopropyl-3-pyrrolidinecarboxamide | C1(CC1)NC(=O)C1CNCC1 | C8H14N2O
